US07723336B2
p-Phenetidine (0.044 ml, 0.34 mmol) and triethylamine (0.1 ml, 0.75 mmol) were added to a mixture of 8-bromo-6-chloro-3-fluoroimidazo[1,2-b]pyridazine (0.085 g, 0.34 mmol) from 1a in EtOH (1.7 mL). The mixture was heated to 80° C. and stirred for 16 hors. The solution was then concentrated in vacuo to give crude 6-chloro-N-(4-ethoxyphenyl)-3-fluoroimidazo[1,2-b]pyridazin-8-amine.

reactant | p-Phenetidine | 0.34 mmol, 0.044 ml | CCOC=1C=CC(=CC1)N | C8H11NO
reactant | triethylamine | 0.75 mmol, 0.1 ml | C(C)N(CC)CC | C6H15N
reactant | 8-bromo-6-chloro-3-fluoroimidazo[1,2-b]pyridazine | 0.34 mmol, 0.085 g | BrC=1C=2N(N=C(C1)Cl)C(=CN2)F | C6H2BrClFN3
solvent | EtOH | 1.7 mL | CCO | C2H6O
product | 6-chloro-N-(4-ethoxyphenyl)-3-fluoroimidazo[1,2-b]pyridazin-8-amine | ClC=1C=C(C=2N(N1)C(=CN2)F)NC2=CC=C(C=C2)OCC | C14H12ClFN4O
